US06150522
Step 2D 4-[2-(1-tert-butoxycarbonylpiperidin-2-yl)-ethoxy]-7-chloro-3-(5-chlorothiophen-2-yl)-2-oxo-1,2-dihydroquinoline-6-carboxylic acid
To a solution of 2-{2-[7-chloro-3-(5-chlorothiophen-2-yl)-6-iodo-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (612 mg in 15 ml methylsulfoxide) was added 34 mg [1,1'-bis(diphenylphosphino)ferrocene)dichloropalladium (II) followed by 410 mg potassium acetate and the mixture heated to 60° C. under an atmosphere of carbon monoxide. After 5.5 hours, the mixture was cooled to room temperature and partitioned between ethyl acetate and 0.5N hydrochloric acid and extracted. The organic portion was dried over sodium sulfate and the concentrate purified by flash chromatography on silica gel (ethyl acetate:hexane, 20:80; then 30:70; then 40:60; then 50:50) to give the title compound (337 mg).

reactant | 2-{2-[7-chloro-3-(5-chlorothiophen-2-yl)-6-iodo-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 15 ml, 612 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)I)Cl)=O)C=1SC(=CC1)Cl | C25H27Cl2IN2O4S
reactant | potassium acetate | 410 mg | C(C)(=O)[O-].[K+]
catalyst | [1,1'-bis(diphenylphosphino)ferrocene)dichloropalladium (II) | 34 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[2-(1-tert-butoxycarbonylpiperidin-2-yl)-ethoxy]-7-chloro-3-(5-chlorothiophen-2-yl)-2-oxo-1,2-dihydroquinoline-6-carboxylic acid | 337 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C(=O)O)Cl)=O)C=1SC(=CC1)Cl | C26H28Cl2N2O6S
